US06797823B1
N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-(4-chlorophenyl)-N-methylurea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (80 mg) was dissolved in chloroform (3 ml) and triethylamine (0.3 ml), and a solution of triphosgene (72 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 15 min. Next, 4-chloro-N-methylaniline (35 μl) was added to the reaction solution, and the mixture was heated under reflux for additional 30 min. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol, and the solvent was removed by distillation. The resultant crystal was washed with ether to give 83 mg (yield 69%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 80 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 72 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-chloro-N-methylaniline | 35 μl | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-(4-chlorophenyl)-N-methylurea | 83 mg, yield 69% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(N(C)C1=CC=C(C=C1)Cl)=O | C24H20Cl2N4O4
